US04277479
Into 200 ml of dimethylformamide, 3.2 g of 6-hydroxycarbostyril, 3.3 g of potassium carbonate and 7.7 g of 1-cyclohexyl-5-γ-chloropropyltetrazole are added and stirred for 4 hours at 70° to 80° C. After the reaction is completed, dimethylformamide is removed by distillation under reduced pressure. The residue thus obtained is then extracted with 300 ml of chloroform and the chloroform layer is washed with a diluted NaOH aqueous solution and with water and next dried with Na2SO4. After removal of the drying agent by filtration, then the mother liquor is concentrated and the residue is recrystallized from chloroform to obtain 3.54 g of 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril, in the form of colorless needle-like crystals. Melting point: 211° to 212° C.

reactant | 6-hydroxycarbostyril | 3.2 g | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-cyclohexyl-5-γ-chloropropyltetrazole | 7.7 g | C1(CCCCC1)N1N=NN=C1CCCCl | C10H17ClN4
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril | 3.54 g | C1(CCCCC1)N1N=NN=C1CCCOC=1C=C2C=CC(NC2=CC1)=O | C19H23N5O2
